datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.CC[Si:63](CC)(CC)[CH2:62][C:11](C)=[C:10](C)C>>CC[Si:63](CC)(CC)[CH2:62][C+:11](C)[C:10](C)(C)[CH:20]([C:21]1=[C:22](C(C)(C)C)[NH:23]C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[Si](C)(C)[N:12]1[CH:11]=[N:10][CH:64]=[CH:63]1>>C[Si](C)(C)[N+:12]1=[CH:11][N:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:41]=[C:42](C2=CC=CC=C2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)[CH:64]=[CH:63]1 10,11=10,20;12=11,12"
"CC[O:61]/[C:11](=[C:10](\C(C)C)[C:72](=[O:73])[O:83]CC)[O-:12].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:61][C:11]([C:10](C(C)C)([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[CH:20]=[CH:21][C:22](=[O:23])[O:33]1.C[Si:63]1(C)CCCC[CH:11]([H:10])[CH2:62]1>>C1[CH:20]([H:10])[CH:21]=[C:22]([O-:23])[O:33]1.C[Si:63]1(C)CCCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;20,21=21"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:62]3C4=C(C=CC=C4)[S:72][C:61]3=[N:10]2)C=C1.COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([N+:10]3=[C:61]4[N:62](CC[C@H]3C(C3=CC=CC=C3)C3=CC=CC=C3)C3=C(C=CC=C3)[S:72]4)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C1C[N:62]2CC[NH:12][C:11]2=[N:10]1>>C1=CC=C([S:32]([CH-:21][CH2:20][N:10]2CC[N:62]3CC[NH+:12]=[C:11]23)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.[H:10][Si:11]([Cl:62])([CH3:72])[CH3:82]>>C1C[C:21]([CH2:20][H:10])=[C:22]([O-:23])[O:33]C1.[Si+:11]([Cl:62])([CH3:72])[CH3:82] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[NH:10]2)C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCCC2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10](C)([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([C:65]#[N:66])[CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C/[CH:10]=[CH:11]\[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.CC[O:33][C:22](/[CH:21]=[CH:20]/[C:41](=[O:42])[O:52]CC)=[O:23]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10](C)[CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"COC[C@@H]1CCC[NH:10]1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>COC[C@@H]1CCC[NH+:10]1[CH:20]([C:21](C[N+]12CCN(CC1)CC2)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C[CH:10]=[C:11](C)C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[CH:10]([C+:11](C)C)[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1 10,11=10,20"
"C1C[C:20](=[O:21])C1.CC(C)=[N:10]CC1=CC=CC=C1>>CC(C)=[N+:10](CC1=CC=CC=C1)[C:20]1([O-:21])CCC1 10=20;20,21=21"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1>>C1=CC=C([C:20]2([CH2:10][CH+:11][CH2:62][Si:63](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[S:31]CC[S:41]2)C=C1 10,11=10,20"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[C:10](=[N+:11]=[N-:12])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([C:10]([N+:11]#[N:12])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
